US05064833
8-(3-Dimethylaminopropoxy)-2-[(2-methylphenyl)amino]-4-(N-methylphenylamino)quinazoline
Sodium metal (103 mg, 4.49 mM) was dissolved in absolute ethanol (20 ml) and the solution added to a suspension of 2-[(2-methylphenyl)amino]-4-(N-methylphenylamino)-8-hydroxyquinazoline (1.6 g, 4.49 mM) in ethanol (100 ml). The mixture was heated until a clear solution was produced and then the ethanol was evaporated off. Toluene (25 ml) was added and again the mixture was evaporated to dryness. The residue was dissolved in toluene (50 ml) and to this solution was added a solution of N,N-dimethylaminopropylchloride (546 mg, 4.49 mM) in toluene (75 ml). The resulting mixture was heated at reflux temperature overnight, cooled, washed with water (×2), dried and evaporated to dryness, to give a browny-yellow oil. This oil was crystallised from ether/pentane to give the title compound (0.9 g) as buff-coloured flakes, m.p. 77°-79°.

reactant | Sodium | 4.49 mM, 103 mg | [Na] | Na
reactant | 2-[(2-methylphenyl)amino]-4-(N-methylphenylamino)-8-hydroxyquinazoline | 4.49 mM, 1.6 g | CC1=C(C=CC=C1)NC1=NC2=C(C=CC=C2C(=N1)N(C)C1=CC=CC=C1)O | C22H20N4O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 8-(3-Dimethylaminopropoxy)-2-[(2-methylphenyl)amino]-4-(N-methylphenylamino)quinazoline | 0.9 g | CN(CCCOC=1C=CC=C2C(=NC(=NC12)NC1=C(C=CC=C1)C)N(C)C1=CC=CC=C1)C | C27H31N5O
